US06887896B1
(2E)-3-(4-Chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-enal (Compound A-156)
As described in General Procedure H-1, (2E)-3-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-en-1-ol (Compound A-145, 34 mg, 0.09 mmol) tetrapropylammonium perruthenate (10 mg, 0.028 mmol) and 4-methylmorpholine N-oxide (21 mg, 0.18 mmol) were reacted in dichloromethane to give the title compound after purification by flash column chromatography (silica gel, 10% ethyl acetate in hexanes).

reactant | (2E)-3-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-en-1-ol | 0.09 mmol, 34 mg | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\CO)/F)/CC)OCC | C22H30ClFO2
reactant | 4-methylmorpholine N-oxide | 0.18 mmol, 21 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 0.028 mmol, 10 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | (2E)-3-(4-Chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-enal | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=O)/F)/CC)OCC | C22H28ClFO2
